US06894050B2
Preparation of Intermediate (3-Chloro-benzyl)-(6-chloro-pyrazin-2-yl)-amine (I-2a)
To a solution of 2-amino-6-chloropyrazine (100 mg, 0.77 mmol) in 7.7 mL of anhydrous toluene was added 3-chlorobenzaldehyde (87.4 μL, 0.77 mmol) followed by 50 mg of activated, powdered 4 Å molecular sieves. The reaction was refluxed under nitrogen for 3 h, then cooled to ambient temperature and treated with sodium borohydride (43.0 mg, 1.16 mmol). The resultant slurry was heated to reflux under nitrogen overnight. After cooling to ambient temperature the reaction was filtered through a pad of Celite®, and the flitrate was concentrated in vacuo to a brown residue. Chromatography on a silica gel preparatory TLC plate (1:1 hexane:ethyl acetate) provided 71.0 mg of the title compound I-2a.

reactant | 2-amino-6-chloropyrazine | 0.77 mmol, 100 mg | NC1=NC(=CN=C1)Cl | C4H4ClN3
reactant | 3-chlorobenzaldehyde | 0.77 mmol, 87.4 μL | ClC=1C=C(C=O)C=CC1 | C7H5ClO
reactant | sodium borohydride | 1.16 mmol, 43.0 mg | [BH4-].[Na+]
solvent | toluene | 7.7 mL | C1(=CC=CC=C1)C | C7H8
product | (3-Chloro-benzyl)-(6-chloro-pyrazin-2-yl)-amine | 71.0 mg | ClC=1C=C(CNC2=NC(=CN=C2)Cl)C=CC1 | C11H9Cl2N3
